US04209626
Methyl 1,2-dihydro-2-oxo-5-[3-(trifluoromethyl)phenyl]-3-pyridinecarboxylate
To a solution of 1.5 g. of sodium methoxide in 85 ml. of methanol is added 2.25 g. of dimethyl malonate and 2.93 g. of 3-amino-2-[3-(trifluoromethyl)phenyl]-2-propenal. The mixture is stirred at room temperature for 16 hours with precipitation of a yellow solid. The mixture is heated at reflux temperature for 2 hours, cooled and filtered to obtain a white solid. The solid is washed with ether, suspended in water and acidified with hydrochloric acid to yield 1.75 g. of the product of the Example as a white solid, m.p. 195°-201° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-amino-2-[3-(trifluoromethyl)phenyl]-2-propenal | NC=C(C=O)C1=CC(=CC=C1)C(F)(F)F | C10H8F3NO
solvent | methanol | CO | CH4O
product | Methyl 1,2-dihydro-2-oxo-5-[3-(trifluoromethyl)phenyl]-3-pyridinecarboxylate | O=C1NC=C(C=C1C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C14H10F3NO3
